US05597823
3-Amino-2-carbomethoxy-5-cyano-benzthiophene
4-Chloroisophthalonitrile (5.69 g, 35 mmol), prepared by the method of Markley et al, J. Med. Chem., 29: 427 (1986), was treated with 1 equivalent methyl thioglycolate and 1 equivalent Na2CO3 in methanol by the procedure described in Example 41A to yield the title compound (3.00 g, 37%). m.p. 248° C. 1H NMR (300 MHz, DMSO) δ 8.71 (s, 1H), 8.09 (d, 1H), 7.86 (dd, 1H), 7.30 (br s, 2H), 3.81 (s, 3H). MS (DCI/NH3) m/e 250 (M+NH4)+.

reactant | 4-Chloroisophthalonitrile | 35 mmol, 5.69 g | ClC1=C(C=C(C#N)C=C1)C#N | C8H3ClN2
reactant | methyl thioglycolate | 1 equivalent | C(CS)(=O)OC | C3H6O2S
reactant | Na2CO3 | 1 equivalent | C(=O)([O-])[O-].[Na+].[Na+]
solvent | methanol | CO | CH4O
product | 3-Amino-2-carbomethoxy-5-cyano-benzthiophene | 3.00 g, 37% | NC1=C(SC2=C1C=C(C=C2)C#N)C(=O)OC | C11H8N2O2S
